US06723722B1
A solution of 4-benzyloxycarbonyl-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone (25.29 g) and an a 4N solution of hydrochloric acid in ethyl acetate (15.5 ml) in methanol (300 ml) was combined with 10% Pd/C (50% hydrated, 5.00 g) and stirred at room temperature for 15 hours under a hydrogen atmosphere. The catalyst was filtered off, and the reaction mixture was concentrated. The residue was dissolved in ethanol (300 ml), and combined with a 4N solution of hydrochloric acid in ethyl acetate (31 ml). The crystals precipitated were collected by filtration and dried to obtain 1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone trihydrochloride (20.16 g) as colorless crystals.

reactant | 4-benzyloxycarbonyl-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone | 25.29 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C22H27N5O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 15.5 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 300 ml | CO | CH4O
catalyst | Pd/C | 5.00 g | [Pd] | Pd
product | 1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone trihydrochloride | 20.16 g | Cl.Cl.Cl.N1=CC=C(C=C1)N1CCC(CC1)NN1C(CNCC1)=O | InChI=1S/C14H21N5O.3ClH/c20-14-11-16-7-10-19(14)17-12-3-8-18(9-4-12)13-1-5-15-6-2-13;;;/h1-2,5-6,12,16-17H,3-4,7-11H2;3*1H
